US06331548B1
Synthesis of 4-(methanesulfonyl)oxytetrahydrothiopyran
To a 300 ml methylene chloride solution of 14.6 g (0.12 mol) of 4-hydroxytetrahydrothiopyran, 11.5 ml (0.15 mol) of methanesulfonyl chloride and 25.8 ml (0.19 mol) of triethylamine were added at 0° C. and stirred at room temperature for 1 hour. The reaction mixture was diluted with methylene chloride (100 ml) and successively washing with water (100 ml) and saturated saline (100 ml), followed by drying over anhydrous sodium sulfate. The solvent was then distilled off under vacuum to obtain 24.5 g (quant.) of the above-identified compound as a slightly brown crystal.

reactant | 4-hydroxytetrahydrothiopyran | 0.12 mol, 14.6 g | OC1CCSCC1 | C5H10OS
reactant | methanesulfonyl chloride | 0.15 mol, 11.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.19 mol, 25.8 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 4-(methanesulfonyl)oxytetrahydrothiopyran | CS(=O)(=O)OC1CCSCC1 | C6H12O3S2
